US06071927
(2R)-3-Benzyloxy-1-chloro-2-(2-methoxyphenyl)propane
A solution of (2S)-3-benzyloxy-2-(2-methoxyphenyl)propan-1-ol (Description 98, 2 g, 7.4 mmol) and triphenylphosphine (2.12 g, 8.1 mmol) in carbon tetrachloride (10 mL) was heated in an oil bath at 100° C. for 5 h. Methanol (1 mL) was cautiously added and the mixture was cooled to room temperature and stirred for 16 h. The solvent was evaporated under reduced pressure and the residue was purified by chromatography on silica gel, eluting with hexane/EtOAc (100:0 increasing to 95:5) to give the title compound (1.5 g). 1H NMR (250 MHz, CDCl3) δ7.37-7.2 (7 H, m), 6.96-6.86 (2 H, m), 4.54 (2 H, s), 3.92 (2 H, m), and 3.81-3.73 (7 H, m).

reactant | (2S)-3-benzyloxy-2-(2-methoxyphenyl)propan-1-ol | 7.4 mmol, 2 g | C(C1=CC=CC=C1)OC[C@H](CO)C1=C(C=CC=C1)OC | C17H20O3
reactant | triphenylphosphine | 8.1 mmol, 2.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Methanol | 1 mL | CO | CH4O
reactant | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (2R)-3-Benzyloxy-1-chloro-2-(2-methoxyphenyl)propane | 1.5 g | C(C1=CC=CC=C1)OC[C@H](CCl)C1=C(C=CC=C1)OC | C17H19ClO2
